US07163947B2
A solution of tert-butyl {3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate (1.30 g, 3.14 mmol) in 10 mL of ethanol was treated with a solution of 3 M hydrogen chloride in ethanol (5.0 mL, 15 mmol) and heated to 100° C. After 30 min, the solvent was concentrated under reduced pressure to yield a brown sludge. The material was triturated with diethyl ether and filtered to give a tan solid. The solid was dissolved in water and treated with 10% NaOH solution until pH 13 was reached. The aqueous solution was extracted with CH2Cl2 (4×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.77 g) as a gold colored foam.

reactant | tert-butyl {3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}carbamate | 3.14 mmol, 1.30 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(OC(C)(C)C)=O)COCC | C21H30N6O3
reactant | hydrogen chloride | 3 M | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethanol | 15 mmol, 5.0 mL | C(C)O | C2H6O
product | N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.77 g | NCCCNN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C16H22N6O
